US08247403B2
(2) tert-butyl 9-cyclobutyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-(1-hydroxycyclobutyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (108 mg, 0.338 mmol) and 10% palladium on carbon (100 mg) in methanol (10 ml) was stirred at room temperature for 24 hr under a hydrogen atmosphere, and the insoluble material was filtered off. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (40.0 mg, 39.0%) as an oil.

reactant | tert-butyl 9-(1-hydroxycyclobutyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.338 mmol, 108 mg | OC1(CCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H25NO4
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl 9-cyclobutyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 40.0 mg, 39.0% | C1(CCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H25NO3
